US05631262
5(f) 2-(E-2-Carboxymethylethenyl)-3-dodecyloxy-6-(chloromethyl)pyridine hydrochloride
2-(E-2-Carboxymethylethenyl)-3-dodecyloxy-6-(hydroxymethyl)pyridine (250 mg, 0.662 mmol) was dissolved in dry toluene (10 mL) under an argon atmosphere and cooled to 0∞C. Thionyl chloride (0.50 mL, 6.85 mmol) was slowly added and the solution was stirred at 0∞C for 30 minutes followed by 1 h at room temperature. The solvent and excess thionyl chloride were removed at reduced pressure. The crude hydrochloride salt was then used directly in the next step without further purification.

reactant | 2-(E-2-Carboxymethylethenyl)-3-dodecyloxy-6-(hydroxymethyl)pyridine | 0.662 mmol, 250 mg | C(=O)(O)C/C=C/C1=NC(=CC=C1OCCCCCCCCCCCC)CO | C22H35NO4
reactant | Thionyl chloride | 6.85 mmol, 0.50 mL | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(E-2-Carboxymethylethenyl)-3-dodecyloxy-6-(chloromethyl)pyridine hydrochloride | Cl.C(=O)(O)C/C=C/C1=NC(=CC=C1OCCCCCCCCCCCC)CCl | InChI=1S/C22H34ClNO3.ClH/c1-2-3-4-5-6-7-8-9-10-11-17-27-21-16-15-19(18-23)24-20(21)13-12-14-22(25)26;/h12-13,15-16H,2-11,14,17-18H2,1H3,(H,25,26);1H/b13-12+;
